US04232027
B. 1,2-Dihydro-2-oxo-4-phenyl-3-quinolinecarbonitrile
A stirred mixture of 10 g (0.030 mole) of 3-bromo-2-phenyl-1,5-benzothiazepin-4(5H)-one from part A, 10 g (0.11 mole) of CuCN, and 75 ml of dimethylformamide is treated with 1 ml of pyridine, heated, and the resulting dark solution refluxed for 2 hours. After cooling, the reaction mixture is poured into a vigorously stirred mixture of 600 ml of ice-water, 600 ml of concentrated NH4OH, and 300 ml of CHCl3. Stirring is continued until essentially 2 clear layers are obtained. The layers are separated and the blue aqueous NH4OH layer is extracted with additional CHCl3 (4×150 ml). The combined organic layers are washed with 10% NH4OH (2×150 ml), then with 150 ml of H2O, dried (MgSO4), and the solvent evaporated (finally at 1 mm. pressure to remove dimethylformamide) to give 5.9 g of a reddish, partly solid residue. The latter is crystallized from 60 ml of MeCN to give 2.2 g (30%) of a pale yellow solid, m.p. 263°-265°(dec.).

reactant | 3-bromo-2-phenyl-1,5-benzothiazepin-4(5H)-one | 0.030 mole, 10 g | BrC1=C(SC2=C(NC1=O)C=CC=C2)C2=CC=CC=C2 | C15H10BrNOS
reactant | CuCN | 0.11 mole, 10 g | C(#N)[Cu]
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
reactant | NH4OH | 600 ml | [NH4+].[OH-]
solvent | CHCl3 | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 1,2-Dihydro-2-oxo-4-phenyl-3-quinolinecarbonitrile | 2.2 g, 30% | O=C1NC2=CC=CC=C2C(=C1C#N)C1=CC=CC=C1 | C16H10N2O
